US07786132B2
(i) Methyl 2-(2-(4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidin-2-ylamino)ethylamino)propanoate
Methyl 2-bromopropanoate (182 mg, 1.09 mmol) was added to a mixture of N-(2-amino-ethyl)-4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidin-2-amine (300 mg, 0.99 mmol) and N,N-diisopropylethylamine (153 mg, 1.19 mmol) in 1-methylpyrrolidine (8 mL) at rt. After stirring at rt for 24 h, water (50 mL) was added and the mixture extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (3×50 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give the title compound. MS (M+H)+ 389.

reactant | Methyl 2-bromopropanoate | 1.09 mmol, 182 mg | BrC(C(=O)OC)C | C4H7BrO2
reactant | N-(2-amino-ethyl)-4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidin-2-amine | 0.99 mmol, 300 mg | NCCNC1=NC=CC(=N1)C=1SC(=CC1)C=1SC=CC1 | C14H14N4S2
reactant | N,N-diisopropylethylamine | 1.19 mmol, 153 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | 50 mL | O | H2O
solvent | 1-methylpyrrolidine | 8 mL | CN1CCCC1 | C5H11N
product | Methyl 2-(2-(4-(5-(thiophen-2-yl)thiophen-2-yl)pyrimidin-2-ylamino)ethylamino)propanoate | S1C(=CC=C1)C1=CC=C(S1)C1=NC(=NC=C1)NCCNC(C(=O)OC)C | C18H20N4O2S2
